US06716850B2
A solution of triflic anhydride (1.77 ml, 10.5 mmol) in dichloromethane 10 ml) was added to a mixture of 2,4-dihydroxybenzaldehyde (1.38 g, 10 mmol) and pyridine (0.85 ml, 10.5 mmol) in dichloromethane (30 ml) at −70C. Dry ice bath was removed and the reaction mixture was stirred for 2 h at room temperature. The reaction mixture was diluted with dichloromethane, washed with water, brine and evaporated in vacuo. The crude product was purified by column chromatography (silica gel, EA:Hex, 1:6) to give 1.55 g of trifluoro-methanesulfonic acid 4-formyl-3-hydroxy-phenyl ester (57%).

reactant | triflic anhydride | 10.5 mmol, 1.77 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 2,4-dihydroxybenzaldehyde | 10 mmol, 1.38 g | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | pyridine | 10.5 mmol, 0.85 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | trifluoro-methanesulfonic acid 4-formyl-3-hydroxy-phenyl ester | 1.55 g, 57% | C(=O)C1=C(C=C(C=C1)OS(=O)(=O)C(F)(F)F)O | C8H5F3O5S
